US08623877B2
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(6-methyl-4-trifluoromethyl-pyridin-2-yl)-1,2,3,4-tetrahydro-isoquinoline
The title compound was synthesized in substantially the same way as Example 1 by condensation of 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline with 2-Bromo-6-methyl-4-trifluoromethyl-pyridine.

reactant | 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
reactant | 2-Bromo-6-methyl-4-trifluoromethyl-pyridine | BrC1=NC(=CC(=C1)C(F)(F)F)C | C7H5BrF3N
product | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(6-methyl-4-trifluoromethyl-pyridin-2-yl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCN(CC2=CC1)C1=NC(=CC(=C1)C(F)(F)F)C | C25H31F3N4
